* Created by KLayout
*** My special header ***

* cell tr_1um_AriyoshiNaoki1016jp_inverter
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_AriyoshiNaoki1016jp_inverter P1 P10 P11 P12 P13 P14 P15 P2 P3 P4
+ P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -361.8,-823
X$2 P7 VDD P9 VSS INV1_N5_P10_M1
* cell instance $3 r0 *1 648.4,-600.4
X$3 P10 P11 VDD VSS INV2_N10_P20_M2
* cell instance $8 r270 *1 -807.05,-174.65
X$8 VDD P4 P5 P6 VSS NAND_manual13
* cell instance $9 r0 *1 763.1,701.1
X$9 \$35 P14 VDD VSS INV2_N10_P20_M2$1
* cell instance $10 r0 *1 695.15,701.05
X$10 P12 VDD \$35 VSS INV1_N5_P10_M1$1
* cell instance $11 r90 *1 602.15,807.15
X$11 \$52 P15 VDD VSS INV2_N10_P20_M2
* cell instance $12 r90 *1 602.15,761.35
X$12 P13 VDD \$52 VSS INV1_N5_P10_M1
* cell instance $20 r0 *1 103.6,732.65
X$20 P3 P12 VDD P13 P2 P1 VSS FULLADDER_manual1
.ENDS tr_1um_AriyoshiNaoki1016jp_inverter

* cell NAND_manual13
* pin VDD
* pin B
* pin A
* pin N1
* pin VSS
.SUBCKT NAND_manual13 VDD B A N1 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD B N1 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N1 A VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N1 B \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 A VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual13

* cell INV2_N10_P20_M2$1
* pin VIN
* pin VOUT
* pin VDD
* pin VSS
.SUBCKT INV2_N10_P20_M2$1 VIN VOUT VDD VSS
* device instance $1 r0 *1 40,25 PMOS
XM$1 VDD VIN VOUT VDD PMOS L=1u W=20u AS=90p AD=90p PS=49u PD=49u
* device instance $2 r0 *1 20,25 PMOS
XM$2 VDD VIN VOUT VDD PMOS L=1u W=20u AS=90p AD=90p PS=49u PD=49u
* device instance $3 r0 *1 40,-20 NMOS
XM$3 VSS VIN VOUT VSS NMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $4 r0 *1 20,-20 NMOS
XM$4 VSS VIN VOUT VSS NMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
.ENDS INV2_N10_P20_M2$1

* cell INV1_N5_P10_M1$1
* pin VIN
* pin VDD
* pin VOUT
* pin VSS
.SUBCKT INV1_N5_P10_M1$1 VIN VDD VOUT VSS
* device instance $1 r0 *1 20,25 PMOS
XM$1 VDD VIN VOUT VDD PMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $2 r0 *1 20,-20 NMOS
XM$2 VSS VIN VOUT VSS NMOS L=1u W=5u AS=22.5p AD=22.5p PS=19u PD=19u
.ENDS INV1_N5_P10_M1$1

* cell INV2_N10_P20_M2
* pin VIN
* pin VOUT
* pin VDD
* pin VSS
.SUBCKT INV2_N10_P20_M2 VIN VOUT VDD VSS
* device instance $1 r0 *1 40,25 PMOS
XM$1 VDD VIN VOUT VDD PMOS L=1u W=20u AS=90p AD=90p PS=49u PD=49u
* device instance $2 r0 *1 20,25 PMOS
XM$2 VDD VIN VOUT VDD PMOS L=1u W=20u AS=90p AD=90p PS=49u PD=49u
* device instance $3 r0 *1 40,-20 NMOS
XM$3 VSS VIN VOUT VSS NMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $4 r0 *1 20,-20 NMOS
XM$4 VSS VIN VOUT VSS NMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
.ENDS INV2_N10_P20_M2

* cell INV1_N5_P10_M1
* pin VIN
* pin VDD
* pin VOUT
* pin VSS
.SUBCKT INV1_N5_P10_M1 VIN VDD VOUT VSS
* device instance $1 r0 *1 20,25 PMOS
XM$1 VDD VIN VOUT VDD PMOS L=1u W=10u AS=45p AD=45p PS=29u PD=29u
* device instance $2 r0 *1 20,-20 NMOS
XM$2 VSS VIN VOUT VSS NMOS L=1u W=5u AS=22.5p AD=22.5p PS=19u PD=19u
.ENDS INV1_N5_P10_M1

* cell FULLADDER_manual1
* pin P3
* pin P14
* pin VDD
* pin P15
* pin P2
* pin P1
* pin VSS
.SUBCKT FULLADDER_manual1 P3 P14 VDD P15 P2 P1 VSS
* cell instance $1 r270 *1 80,-21.05
X$1 VDD \$18 \$2 \$4 VSS NAND_manual7
* cell instance $2 r270 *1 14.45,-125.75
X$2 VDD \$10 P3 \$2 VSS NAND_manual5
* cell instance $3 r270 *1 14.45,-74
X$3 VDD P2 P3 \$10 VSS NAND_manual4
* cell instance $4 r270 *1 80,-72.25
X$4 VDD P1 \$4 \$9 VSS NAND_manual8
* cell instance $5 r270 *1 80,-123.45
X$5 VDD \$9 \$4 \$5 VSS NAND_manual9
* cell instance $6 r270 *1 142.95,-69.85
X$6 VDD \$16 \$5 P15 VSS NAND_manual11
* cell instance $7 r270 *1 142.95,-118.95
X$7 VDD \$9 \$10 P14 VSS NAND_manual12
* cell instance $8 r270 *1 142.95,-20.75
X$8 VDD \$9 P1 \$16 VSS NAND_manual10
* cell instance $9 r270 *1 14.45,-22.25
X$9 VDD \$10 P2 \$18 VSS NAND_manual6
.ENDS FULLADDER_manual1

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell NAND_manual4
* pin VDD
* pin B
* pin A
* pin N1
* pin VSS
.SUBCKT NAND_manual4 VDD B A N1 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD B N1 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N1 A VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N1 B \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 A VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual4

* cell NAND_manual5
* pin VDD
* pin N1
* pin A
* pin N2
* pin VSS
.SUBCKT NAND_manual5 VDD N1 A N2 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N1 N2 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N2 A VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N2 N1 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 A VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual5

* cell NAND_manual6
* pin VDD
* pin N1
* pin B
* pin N3
* pin VSS
.SUBCKT NAND_manual6 VDD N1 B N3 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N1 N3 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N3 B VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N3 N1 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 B VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual6

* cell NAND_manual12
* pin VDD
* pin N4
* pin N1
* pin Cout
* pin VSS
.SUBCKT NAND_manual12 VDD N4 N1 Cout VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N4 Cout VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 Cout N1 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 Cout N4 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 N1 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual12

* cell NAND_manual11
* pin VDD
* pin N6
* pin N5
* pin S
* pin VSS
.SUBCKT NAND_manual11 VDD N6 N5 S VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N6 S VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 S N5 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 S N6 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 N5 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual11

* cell NAND_manual10
* pin VDD
* pin N4
* pin Cin
* pin N6
* pin VSS
.SUBCKT NAND_manual10 VDD N4 Cin N6 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N4 N6 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N6 Cin VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N6 N4 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 Cin VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual10

* cell NAND_manual9
* pin VDD
* pin N4
* pin P
* pin N5
* pin VSS
.SUBCKT NAND_manual9 VDD N4 P N5 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N4 N5 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N5 P VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N5 N4 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 P VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual9

* cell NAND_manual8
* pin VDD
* pin Cin
* pin P
* pin N4
* pin VSS
.SUBCKT NAND_manual8 VDD Cin P N4 VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD Cin N4 VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 N4 P VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 N4 Cin \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 P VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual8

* cell NAND_manual7
* pin VDD
* pin N3
* pin N2
* pin P
* pin VSS
.SUBCKT NAND_manual7 VDD N3 N2 P VSS
* device instance $1 r0 *1 -111.3,6.15 PMOS
XM$1 VDD N3 P VDD PMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $2 r0 *1 -101.2,6.15 PMOS
XM$2 P N2 VDD VDD PMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
* device instance $3 r0 *1 -111.3,-16.25 NMOS
XM$3 P N3 \$14 VSS NMOS L=1u W=3.4u AS=15.3p AD=15.47p PS=15.8u PD=12.5u
* device instance $4 r0 *1 -101.2,-16.25 NMOS
XM$4 \$14 N2 VSS VSS NMOS L=1u W=3.4u AS=15.47p AD=14.96p PS=12.5u PD=15.6u
.ENDS NAND_manual7

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=50u AS=698.04p AD=225p PS=126.36u PD=59u
* device instance $2 r0 *1 -54.5,0 PMOS
XM$2 VDD VDD PAD VDD PMOS L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $3 r0 *1 -35.5,0 PMOS
XM$3 PAD VDD VDD VDD PMOS L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $4 r0 *1 -24.5,0 PMOS
XM$4 VDD VDD PAD VDD PMOS L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $5 r0 *1 -5.5,0 PMOS
XM$5 PAD VDD VDD VDD PMOS L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $6 r0 *1 5.5,0 PMOS
XM$6 VDD VDD PAD VDD PMOS L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $7 r0 *1 24.5,0 PMOS
XM$7 PAD VDD VDD VDD PMOS L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $8 r0 *1 35.5,0 PMOS
XM$8 VDD VDD PAD VDD PMOS L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $9 r0 *1 54.5,0 PMOS
XM$9 PAD VDD VDD VDD PMOS L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $10 r0 *1 65.5,0 PMOS
XM$10 VDD VDD PAD VDD PMOS L=2u W=50u AS=225p AD=698.04p PS=59u PD=126.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=50u AS=698.04p AD=225p PS=126.36u PD=59u
* device instance $2 r0 *1 -54.5,0 NMOSE
XM$2 VSS VSS PAD VSS NMOSE L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $3 r0 *1 -35.5,0 NMOSE
XM$3 PAD VSS VSS VSS NMOSE L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $4 r0 *1 -24.5,0 NMOSE
XM$4 VSS VSS PAD VSS NMOSE L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $5 r0 *1 -5.5,0 NMOSE
XM$5 PAD VSS VSS VSS NMOSE L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $6 r0 *1 5.5,0 NMOSE
XM$6 VSS VSS PAD VSS NMOSE L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $7 r0 *1 24.5,0 NMOSE
XM$7 PAD VSS VSS VSS NMOSE L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $8 r0 *1 35.5,0 NMOSE
XM$8 VSS VSS PAD VSS NMOSE L=2u W=50u AS=225p AD=425p PS=59u PD=67u
* device instance $9 r0 *1 54.5,0 NMOSE
XM$9 PAD VSS VSS VSS NMOSE L=2u W=50u AS=425p AD=225p PS=67u PD=59u
* device instance $10 r0 *1 65.5,0 NMOSE
XM$10 VSS VSS PAD VSS NMOSE L=2u W=50u AS=225p AD=698.04p PS=59u PD=126.36u
.ENDS OSS_NCH_ESD
